US08232289B2
To a solution of ethyl 1-(3-fluoro-2-pyridyl)-3-methyl-pyrazole-4-carboxylate (10.2 g, 40.9 mmol) in chlorobenzene (205 mL), N-bromosuccinimide (8 g) is added at room temperature. The reaction mixture is stirred and irradiated under a 100 W lamp at room temperature overnight. Then more N-bromosuccinimide (2 g) is added and after 2 hr., no starting material is detected. Solids are filtered and solvent is evaporated. The crude is purified by normal phase Isco chromatography using as eluent dichloromethane and methanol to give 5.3 g of ethyl 3-(bromomethyl)-1-(3-fluoro-2-pyridyl)pyrazole-4-carboxylate. MS (m/z): 328; 330 (M+1; M+3).

reactant | ethyl 1-(3-fluoro-2-pyridyl)-3-methyl-pyrazole-4-carboxylate | 40.9 mmol, 10.2 g | FC=1C(=NC=CC1)N1N=C(C(=C1)C(=O)OCC)C | C12H12FN3O2
reactant | N-bromosuccinimide | 8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chlorobenzene | 205 mL | ClC1=CC=CC=C1 | C6H5Cl
product | ethyl 3-(bromomethyl)-1-(3-fluoro-2-pyridyl)pyrazole-4-carboxylate | 5.3 g | BrCC1=NN(C=C1C(=O)OCC)C1=NC=CC=C1F | C12H11BrFN3O2
